US04435390
1.0 g of 17-ethoxyacetoxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione is hydrogenated as described in Example 19 with 700 mg of tris(triphenylphosphine)rhodium(I) chloride. After the reaction mixture has been worked up and purified, 790 mg of 17-ethoxyacetoxy-11β,21-dihydroxy-6α-methyl-4-pregnene-3,20-dione is isolated.

reactant | 17-ethoxyacetoxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 1.0 g | C(C)OCC(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C26H36O7
catalyst | tris(triphenylphosphine)rhodium(I) chloride | 700 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 17-ethoxyacetoxy-11β,21-dihydroxy-6α-methyl-4-pregnene-3,20-dione | 790 mg | C(C)OCC(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C26H38O7
